2120-03-17 11:32:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2120-3-17**] 03:35 AM
   Has received 20mg po Valium and 10mg iv Valium for withdrawal sxs
   History obtained from Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2120-3-17**] 09:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Musculoskeletal: Myalgias
   Psychiatric / Sleep: Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-3-17**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 95 (95 - 118) bpm
   BP: 144/58(79) {140/58(79) - 180/88(110)} mmHg
   RR: 49 (25 - 49) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             989 mL
   PO:
             120 mL
   TF:
   IVF:
   869 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    980 mL
   Urine:
   980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, very tremulous
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   232 K/uL
   74 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   35.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2120-3-17**]  05:09 AM
   WBC
   12.0
   Hct
   35.3
   Plt
   232
   Cr
   0.6
   Glucose
   74
   Other labs: PT / PTT / INR:12.2/30.6/1.0, ALT / AST:49/52, Alk Phos / T
   Bili:72/0.4, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALCOHOL ABUSE
 DYSPNEA (SHORTNESS OF BREATH)
   60 y/o M with hx of lung adenocarcinoma and etoh abuse who presents
   intoxicated and hypoxic.
   # ETOH intoxication/withdrawl: Appears to be actively withdrawing -
   Valium 10mg q1 hrs by CIWA scale.
   # Hypoxia: given appearance of baseline CXRs, he appears to have COPD.
   He also wears O2 at home.  Will not continue LMWH for now.
   Access: D/C femoral central line if we can get peripherals
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-17**] 03:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2120-03-18 07:05:00 Physician Resident Progress Note
Chief Complaint: ETOH Withdrawal
   24 Hour Events:
   Pt. did well overnight, still [**Doctor Last Name 93**] high on the CIWA.  No seizure
   activity.  Pt. still very disoriented at times.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2120-3-17**] 11:45 AM
   Diazepam (Valium) - [**2120-3-18**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-18**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 78 (78 - 118) bpm
   BP: 156/61(86) {131/52(56) - 163/101(114)} mmHg
   RR: 28 (23 - 49) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,770 mL
                                                                    632 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,290 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                  1,140 mL
   Urine:
                                                                  1,480 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,290 mL
                                                                   -508 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   Gen:  NAD, somewhat tremulous
   Pulm:  decreased at b/l bases with occ. Crackles
   CV:  RRR, no murmur appreciated
   Abd:  + BS, soft, NT/ND
   Ext:  pulses intact, no edema
   Skin:  warm, dry
   Neurologic: arousable, oriented to person, place, and year, but still
   endorsing seeing animals
   Labs / Radiology
   252 K/uL
   12.7 g/dL
   121 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.3 mEq/L
   4 mg/dL
   97 mEq/L
   136 mEq/L
   36.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-3-17**]  05:09 AM
                             [**2120-3-18**]  05:00 AM
   WBC
   12.0
   9.1
   Hct
   35.3
   36.6
   Plt
   232
   252
   Cr
   0.6
   0.5
   Glucose
   74
   121
   Other labs: PT / PTT / INR:12.2/24.8/1.0, ALT / AST:49/52, Alk Phos / T
   Bili:72/0.4, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Assessment and Plan:
   60 y/o M with hx of lung adenocarcinoma and etoh abuse who presents
   intoxicated and hypoxic. Unable to obtain reliable history.
   # ETOH withdrawal: Pt. initially actively intoxicated but has limited
   signs of withdrawal on exam. Is tremulous and hypertensive and
   tachycardic.  CIWAs down to 16 from 22.
   - stop IV valium
   - continue PO valium 10 mg PO for CIWA >10
   - social work consult
   - continue thaimine/folate/MVI
   - psych consult
   # Hypoxia: unclear etiology at this time; likely is secondary to
   underlying lung cancer or COPD. Does not seem to be in respiratory
   stress and was weaned from 4 to 2LNC. Patient unable to tolerate PIV
   and get CTA. Could potentially have a PE as his DDimer was elevated and
   he has a hx of cancer however tachycardia has now resolved and
   likelihood of PE overall seems low. Was given lovenox in the ED.  Pt.
   is no longer tachycardic or hypertensive.
   - wean as tolerated today
   - obtain PICC today
   - hold on lovenox for now
   # Unsteady gait: likely from etoh use.  PT when through withdrawing.
   # Anemia: mild, slightly below baseline but has been that low before.
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: fem CVL - Multi Lumen - [**2120-3-17**] 03:35 AM
   # Communication: Patient; don't know next of [**Doctor First Name **]; will attempt to
   contact patient
s roommate
   # Code:  Presumed Full - no ICU consent obtained
   # Disposition: ICU pending clinical improvement

2120-03-18 10:56:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal, COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Report some mild abdominal discomfort
   24 Hour Events:
   Has recieved 60mg iv Valium and 40mg po Valium over last day
   Getting q1 hr CIWA assesments but receiving Valium on average every 2
   hrs.
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2120-3-17**] 11:45 AM
   Diazepam (Valium) - [**2120-3-18**] 05:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-3-18**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 86 (78 - 97) bpm
   BP: 149/72(91) {131/52(56) - 163/101(114)} mmHg
   RR: 28 (23 - 49) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,770 mL
                                                                  1,079 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,290 mL
                                                                    719 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                  1,280 mL
   Urine:
                                                                  1,480 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,290 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, tremulous
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   12.7 g/dL
   252 K/uL
   121 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.3 mEq/L
   4 mg/dL
   97 mEq/L
   136 mEq/L
   36.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2120-3-17**]  05:09 AM
                             [**2120-3-18**]  05:00 AM
   WBC
   12.0
   9.1
   Hct
   35.3
   36.6
   Plt
   232
   252
   Cr
   0.6
   0.5
   Glucose
   74
   121
   Other labs: PT / PTT / INR:12.2/24.8/1.0, ALT / AST:49/52, Alk Phos / T
   Bili:72/0.4, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ALCOHOL ABUSE
 DYSPNEA (SHORTNESS OF BREATH)
   60 y/o M with hx of lung adenocarcinoma and etoh abuse who presents
   intoxicated and hypoxemic.  Remains in MICU given ongoing withdrawal
   and high benzodiazepine requirement.
   # ETOH intoxication/withdrawl: Cont q1 hr CIWA assessments, switch to
   10mg po Valium and elimate iv dosing for now.  Psych consult
   # Hypoxia/COPD: doing well on RA
   Access: Unable to get peripherals, try for PICC today so we can D/C the
   femoral line
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2120-3-17**] 03:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2120-03-19 07:27:00 Physician Resident Progress Note
Chief Complaint: Alcohol Intoxication, Withdrawal
   24 Hour Events:
   Midline placed yesterday.
   Pt. reports wanting to leave this morning d/t  concern for the safety
   of his roommate.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-3-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 81 (81 - 110) bpm
   BP: 164/91(105) {141/55(81) - 196/110(119)} mmHg
   RR: 24 (18 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,352 mL
                                                                    450 mL
   PO:
                                                                    620 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    732 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    225 mL
   Urine:
                                                                  2,100 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen:  NAD, mildly tremulous
   Pulm: decreased at the bases with fine crackles, no rhonchi/wheezes
   CV: RRR, no m/c/r
   Abd:  soft, NT/ND, +BS
   Peripheral Vascular: pulses intact, no edema
   Skin:  warm, dry, no rash, stable scars b/l forearms
   Neurologic: alert, oriented, no focal deficits
   Labs / Radiology
   251 K/uL
   12.4 g/dL
   93 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   8 mg/dL
   99 mEq/L
   135 mEq/L
   37.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2120-3-17**]  05:09 AM
                             [**2120-3-18**]  05:00 AM
                             [**2120-3-19**]  02:07 AM
   WBC
   12.0
   9.1
   7.5
   Hct
   35.3
   36.6
   37.2
   Plt
   232
   252
   251
   Cr
   0.6
   0.5
   0.6
   Glucose
   74
   121
   93
   Other labs: PT / PTT / INR:11.5/25.8/1.0, ALT / AST:49/52, Alk Phos / T
   Bili:72/0.4, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   60 y/o M with hx of lung adenocarcinoma and etoh abuse who presents
   intoxicated and hypoxic. Unable to obtain reliable history.
   # ETOH withdrawal: Pt. initially actively intoxicated.  Still less than
   72 hours since last drink. Over last several days showed active signs
   of withdrawal on exam. CIWAs have decreased and his need for valium has
   also decreased.  No valium since 11pm.  Pt. verbalizes wanting to leave
   the hospital today.  Per psych eval, unclear if appropriate for Section
   12, but they want to re-evaluate today. Physicians from health care for
   the homeless evaluating him today as well.
   - continue PO valium 10 mg PO for CIWA >10
   - f/u social work consult
   - continue thaimine/folate/MVI
   - f/u psych consult
   # Hypoxia: unclear etiology at this time; likely is secondary to
   underlying lung cancer or COPD. Does not seem to be in respiratory
   stress and was weaned from 4 to 2LNC and now on RA. PE was on the
   differential as his DDimer was elevated and he has a hx of cancer
   however tachycardia and hypoxia have now resolved and likelihood of PE
   overall seems low. Was given lovenox in the ED.
   - hold on lovenox for now
   # Unsteady gait: likely from etoh use.  PT when through withdrawing.
   # Anemia: mild, slightly below baseline but has been that low before.
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access:  Midline - [**2120-3-18**] 12:39 PM, fem line DC
d [**3-18**]
   # Communication: Patient; don't know next of [**Doctor First Name **]; some contact with
   patient
s roommate who was here yesterday
   # Code:  Presumed Full - no ICU consent obtained
   # Disposition: ICU pending clinical improvement

2120-03-19 09:57:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Less tremulous this AM
   No complaints
   24 Hour Events:
 MIDLINE - START [**2120-3-18**] 12:39 PM
 MULTI LUMEN - STOP [**2120-3-18**] 02:00 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: No(t) NPO
   Genitourinary: No(t) Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-3-19**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 90 (81 - 110) bpm
   BP: 140/84(103) {140/55(81) - 196/110(119)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,352 mL
                                                                    750 mL
   PO:
                                                                    620 mL
                                                                    750 mL
   TF:
   IVF:
                                                                    732 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    225 mL
   Urine:
                                                                  2,100 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    525 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive, much
   less tremulous
   Labs / Radiology
   12.4 g/dL
   251 K/uL
   93 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   8 mg/dL
   99 mEq/L
   135 mEq/L
   37.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2120-3-17**]  05:09 AM
                             [**2120-3-18**]  05:00 AM
                             [**2120-3-19**]  02:07 AM
   WBC
   12.0
   9.1
   7.5
   Hct
   35.3
   36.6
   37.2
   Plt
   232
   252
   251
   Cr
   0.6
   0.5
   0.6
   Glucose
   74
   121
   93
   Other labs: PT / PTT / INR:11.5/25.8/1.0, ALT / AST:49/52, Alk Phos / T
   Bili:72/0.4, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ALCOHOL ABUSE
 DYSPNEA (SHORTNESS OF BREATH)
   60 y/o M with hx of lung adenocarcinoma and etoh abuse who presents
   intoxicated and hypoxemic.  Stioll at risk for withdrawal but not
   actively withdrawing at this time without any Valium since midnight.
   # ETOH intoxication/withdrawl: Continue Valium prn per CIWA scale.  His
   outpatient psychiatrist, Dr, [**Name (NI) 11954**], is here to speak with him.  Mr.
   [**Known lastname 189**] has been expressing a desire to leave the hospital but so far has
   been redirectable.  Appreciate ongoing psych CL input.
   # Hypoxia/COPD: doing well on RA
   Access: Midline in place
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2120-3-18**] 12:39 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: